US05491237
A 3-necked 500-mL round-bottom flask is equipped with a mechanical stirrer. Under nitrogen, the flask is charged with 6-chloro-4-iodo-2-methoxypyridine-3-carbaldehyde (53.0 g, 178 mmol) obtained as described in U.S. Pat. No. 5,254,690 to Comins et al. issued Oct. 19, 1993 and incorporated herein by reference, triethylsilane (42.7 mL, 267 mmol) and crotyl alcohol (60.8 mL, 713 mmol). The slurry is cooled to 0° C. and trifluoroacetic acid (90.0 mL, 1.17 mmol) is added over 1 h. The reaction is allowed to warm to ambient temperature and stirred for 16 h. The reaction mixture is slowly poured into a rapidly stirred solution of saturated sodium bicarbonate in water (1.5 L). The mixture is extracted with methyl t-butyl ether (4×300 mL). The combined organic layers are washed with brine (700 mL) and dried over anhydrous sodium sulfate (150 g). The drying agent is removed by filtration and the solvents are removed in vacuo to afford 6-chloro-4-iodo-2-methoxy-3-(2-butenyloxymethyl)pyridine as crude product. The product can be purified by vacuum distillation to provide 6-chloro-4-iodo-2-methoxy-3-(2-butenyloxymethyl)pyridine as a light yellow oil. 1H NMR (200 MHz, CDCL3) δ1.75 (d, J=6.1 Hz, 3H), 3.92 (s, 3H), 4.00 (m, 2H), 4.59 (s, 2H), 5.74 (m, 1H), 5.75 (m, 1H), 7.39 (s, 1H).

reactant | 6-chloro-4-iodo-2-methoxypyridine-3-carbaldehyde | 178 mmol, 53.0 g | ClC1=CC(=C(C(=N1)OC)C=O)I | C7H5ClINO2
reactant | triethylsilane | 267 mmol, 42.7 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | crotyl alcohol | 713 mmol, 60.8 mL | C(C=CC)O | C4H8O
reactant | trifluoroacetic acid | 1.17 mmol, 90.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 1.5 L | O | H2O
product | 6-chloro-4-iodo-2-methoxy-3-(2-butenyloxymethyl)pyridine | ClC1=CC(=C(C(=N1)OC)COCC=CC)I | C11H13ClINO2
